US06784192B2
1-[(5-Chloro-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine
In ethanol (8 ml) was dissolved 245 mg of 1-[(5-chloro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine. To the mixture was added 7 ml of a 4N-hydrogen chloride-ethyl acetate solution, followed by heating under reflux for 7 hours. An aqueous sodium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. Ether was added to the resulting oil to be crystallized, and 116 mg of the title compound was obtained as a slight yellow powder.

reactant | 1-[(5-chloro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 245 mg | ClC=1C=C(C(=NC1)OC)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C20H22ClFN2O
reactant | hydrogen chloride-ethyl acetate | C(C)(=O)OCC.Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-[(5-Chloro-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 116 mg | ClC=1C=C(C(NC1)=O)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C19H20ClFN2O
